US07612201B2
Phenyltrimethylammonium tribromide (5.6 g, 0.015 mol) was added portionwise to a stirred solution of 1-(2,4-Bis-benzyloxyphenyl)-ethanone (5.0 g, 0.015 mol) in tetrahydrofuran (50 ml) and the mixture was stirred for 2 h. The mixture was partitioned between water (50 ml) and diethyl ether (2×50 ml). The combined organic phases were dried over magnesium sulphate and concentrated to give 1-(2,4-Bis-benzyloxyphenyl)-2-bromo-ethanone as a beige solid which was used without further purification.

reactant | Phenyltrimethylammonium tribromide | 0.015 mol, 5.6 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | 1-(2,4-Bis-benzyloxyphenyl)-ethanone | 0.015 mol, 5.0 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(C)=O | C22H20O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2,4-Bis-benzyloxyphenyl)-2-bromo-ethanone | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(CBr)=O | C22H19BrO3
